US09326973B2
A solution of n-butyl lithium (1.250 mL, 2.000 mmol) was added to a cold (−78° C.) solution of diisopropylamine (0.283 mL, 2.000 mmol) in THF under nitrogen and the mixture was stirred at −78° C. 1 h. A solution of ethyl 4,4-difluorocyclohexanecarboxylate (192 mg, 1 mmol) in THF (1 mL) was added at −78° C. The reaction mixture was stirred at −78° C. for 1 h and then gradually warm to −20° C. over 2 h. Then neat iodomethane (0.138 mL, 2.200 mmol) was added at −78° C. and the mixture was allowed to warm to rt and stirred at rt overnight. The reaction was quenched with satd. NH4Cl and extracted with EtOAc and the organic phase was washed with water, brine, dried (Na2SO4). Evaporation of the solvent afforded ethyl 4,4-difluoro-1-methylcyclohexanecarboxylate (222 mg) as a light brown oil which was dissolved in EtOH and was added a solution of KOH (112 mg, 2.000 mmol) in water (2.00 mL). The reaction mixture was heated to reflux overnight, then cooled and acidified and extracted with EtOAc to afford Cap-5 as a light brown solid. 1H NMR (400 MHz, CHLOROFORM-d) δ 2.26-2.17 (m, 2H), 2.07-1.95 (m, 2H), 1.94-1.83 (m, 2H), 1.63-1.54 (m, 2H), 1.31 (s, 3H).

reactant | n-butyl lithium | 2.000 mmol, 1.250 mL | C(CCC)[Li]
reactant | diisopropylamine | 2.000 mmol, 0.283 mL | C(C)(C)NC(C)C | C6H15N
reactant | ethyl 4,4-difluorocyclohexanecarboxylate | 1 mmol, 192 mg | FC1(CCC(CC1)C(=O)OCC)F | C9H14F2O2
reactant | iodomethane | 2.200 mmol, 0.138 mL | IC | CH3I
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | ethyl 4,4-difluoro-1-methylcyclohexanecarboxylate | 222 mg | FC1(CCC(CC1)(C(=O)OCC)C)F | C10H16F2O2
